US05741926
4-((Bromoacetyl)amino)-1-nitrobenzene
A solution of 4-nitroaniline (10.0 g, 72.4 mmol) in a mixture of anhydrous DMF (30 mL) and anhydrous dioxane (30 mL) in a 250 mL 3-necked round-bottomed flask equipped with a constant addition funnel (60 mL) was cooled to 0° C. using an ice-bath. Bromoacetyl bromide (14.60 g, 6.35 mL, 72.4 mmol) was added dropwise, keeping the internal temperature between 0° and 5° C. over a 1/2 h period. After the addition of the bromoacetyl bromide was completed, the solution was warmed to rt, stirred overnight, and then the solution was slowly poured into 500 mL of ice-water, causing a solid to precipitate. The precipitate was filtered, washed with water, and then dried in a vacuum dessicator overnight to afford 16.92 g (90%) of the title compound as a greenish yellow solid, mp 175°-178° C.: 1H NMR (DMSO-d6) δ10.98 (s, 1H), 8.24 (d, J=9.2, 2H), 7.83 (d, J=9.2, 2H), 4.10 (s, 2H); 13C NMR (DMSO-d6) δ165.77, 144.67, 142.62, 125.05, 119.01, 30.15; MS (EI, m/z) 285 (M+).

reactant | 4-nitroaniline | 72.4 mmol, 10.0 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
reactant | Bromoacetyl bromide | 72.4 mmol, 6.35 mL, 14.60 g | BrCC(=O)Br | C2H2Br2O
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 4-((Bromoacetyl)amino)-1-nitrobenzene | 16.92 g, 90% | BrCC(=O)NC1=CC=C(C=C1)[N+](=O)[O-] | C8H7BrN2O3
